US08067408B2
1,1-Dimethylethyl 4-{[5′-({[(3-{[{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}(methyl)amino]methyl}phenyl)carbonyl]amino}methyl)-2′-fluoro-3-biphenylyl]methyl}-1-piperazinecarboxylate
To a solution of 1,6-diethyl-5-[(methylamino)methyl]-N-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridin-4-amine (0.0432 g, 0.136 mmol) in DMF (1.0 mL) was added 1,1-dimethylethyl 4-({5′-[({[3-(chloromethyl)phenyl]carbonyl}amino)methyl]-2′-fluoro-3-biphenylyl}methyl)-1-piperazinecarboxylate (0.075 g, 0.136 mmol), and K2CO3 (0.0188 g, 0.136 mmol). This mixture was stirred at room temperature for 18 h after which was added NaI (0.0204 g, 0.136 mmol) and stirring continued for another 25 h. Then the mixture was diluted with EtOAc (5 mL), washed with H2O (2×3 mL), brine (3 mL), concentrated, and purified by CombiFlash chromatograph to afford the title compound 0.055 g (49%). LC-MS m/z 833 (M+H)+.

reactant | 1,6-diethyl-5-[(methylamino)methyl]-N-(tetrahydro-2H-pyran-4-yl)-1H-pyrazolo[3,4-b]pyridin-4-amine | 0.136 mmol, 0.0432 g | C(C)N1N=CC2=C1N=C(C(=C2NC2CCOCC2)CNC)CC | C17H27N5O
reactant | 1,1-dimethylethyl 4-({5′-[({[3-(chloromethyl)phenyl]carbonyl}amino)methyl]-2′-fluoro-3-biphenylyl}methyl)-1-piperazinecarboxylate | 0.136 mmol, 0.075 g | ClCC=1C=C(C=CC1)C(=O)NCC=1C=CC(=C(C1)C1=CC(=CC=C1)CN1CCN(CC1)C(=O)OC(C)(C)C)F | C31H35ClFN3O3
reactant | K2CO3 | 0.136 mmol, 0.0188 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 0.136 mmol, 0.0204 g | [Na+].[I-]
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
product | 1,1-Dimethylethyl 4-{[5′-({[(3-{[{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}(methyl)amino]methyl}phenyl)carbonyl]amino}methyl)-2′-fluoro-3-biphenylyl]methyl}-1-piperazinecarboxylate | 0.055 g, 49% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CN(C)CC=2C=C(C=CC2)C(=O)NCC=2C=CC(=C(C2)C2=CC(=CC=C2)CN2CCN(CC2)C(=O)OC(C)(C)C)F)CC | C48H61FN8O4
